US09193707B2
1. Synthesis of 4-methyl-N-phenylbenzamide
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 4-methylbenzoic acid (20 g, 146.90 mmol, 1.00 equiv) in thionyl chloride (60 g). The mixture was stirred for 2 h at 80° C. The mixture was concentrated under vacuum. The residue was dissolved in dichloromethane (200 mL). This was followed by the addition of triethylamine (29.7 g, 293.51 mmol, 2.00 equiv) dropwise with stirring at 0° C. To this was added aniline (13.6 g, 146.04 mmol, 1.00 equiv) dropwise with stirring at 0° C. The resulting solution was allowed to react, with stirring overnight at room temperature. The resulting mixture was washed with 3×100 mL of hydrogen chloride (5%) and 2×100 mL NaOH (5%). The mixture was washed with 3×100 mL of water. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 19.37 g (62%) of 4-methyl-N-phenylbenzamide as a white solid. MS (ESI) m/z 212 ([M+H]+).

reactant | 4-methylbenzoic acid | 146.90 mmol, 20 g, 1.00 equiv | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | triethylamine | 293.51 mmol, 29.7 g, 2.00 equiv | C(C)N(CC)CC | C6H15N
reactant | aniline | 146.04 mmol, 13.6 g, 1.00 equiv | NC1=CC=CC=C1 | C6H7N
solvent | thionyl chloride | 60 g | S(=O)(Cl)Cl | Cl2OS
product | 4-methyl-N-phenylbenzamide | CC1=CC=C(C(=O)NC2=CC=CC=C2)C=C1 | C14H13NO
